US08466186B2
(b) N-(3-Amino-4-chlorobenzyl)-2,2-dimethyl-propionamide
A mixture of N-(4-chloro-3-nitrobenzyl)-2,2-dimethyl-propionamide (5.92 g, 21.9 mmol), THF (150 mL) and Ra—Ni (1.50 g) was stirred for 2 days at RT under a hydrogen atmosphere (3.0 bar). The catalyst was removed by filtration and the mixture was concentrated. The crude was purified by chromatography to give the sub-title compound.

reactant | N-(4-chloro-3-nitrobenzyl)-2,2-dimethyl-propionamide | 21.9 mmol, 5.92 g | ClC1=C(C=C(CNC(C(C)(C)C)=O)C=C1)[N+](=O)[O-] | C12H15ClN2O3
catalyst | Ra—Ni | 1.50 g | [Ni] | Ni
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | N-(3-Amino-4-chlorobenzyl)-2,2-dimethyl-propionamide | NC=1C=C(CNC(C(C)(C)C)=O)C=CC1Cl | C12H17ClN2O
